US04155931
To a boiling solution of 100 g of 5-nitro-o-toluenesulfonic acid in 110 ml of water is added a solution of 53.6 g of sodium chloride in 150 ml of boiling water. The reaction mixture solidifies and is heated to boiling with the addition of sufficient water to provide solution. Then some of the water is boiled off and the mixture is allowed to stand for 16 hours. The solid formed is collected and dried to yield 92.5 g of 5-nitro-o-toluenesulfonic acid sodium salt.

reactant | 5-nitro-o-toluenesulfonic acid | 100 g | [N+](=O)([O-])C1=CC=C(C(=C1)C)S(=O)(=O)O | C7H7NO5S
reactant | sodium chloride | 53.6 g | [Cl-].[Na+]
solvent | water | 110 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 5-nitro-o-toluenesulfonic acid sodium salt | 92.5 g | [Na+].[N+](=O)([O-])C1=CC=C(C(=C1)C)S(=O)(=O)[O-] | InChI=1S/C7H7NO5S.Na/c1-5-4-6(8(9)10)2-3-7(5)14(11,12)13;/h2-4H,1H3,(H,11,12,13);/q;+1/p-1
